US05026868
b) 2-Bromoacetyl-2,3-dihydro-1H-indene-2-carbonitrile
2-Acetyl-2,3-dihydro-1H-indene-2-carbonitrile (32.9 g) was dissolved in diethyl ether (33 ml). Aluminium chloride (0.17 g) was added. Bromine (28.4 g) was added dropwise at room temperature and the disappearance of the bromine colour was observed. The ether solution was washed with a Na2CO3 -solution and with water, dried over MgSO4, and evaporated. 35.7 g of crude product was obtained.

reactant | 2-Acetyl-2,3-dihydro-1H-indene-2-carbonitrile | 32.9 g | C(C)(=O)C1(CC2=CC=CC=C2C1)C#N | C12H11NO
reactant | Bromine | 28.4 g | BrBr | Br2
reactant | diethyl ether | 33 ml | C(C)OCC | C4H10O
catalyst | Aluminium chloride | 0.17 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 2-Bromoacetyl-2,3-dihydro-1H-indene-2-carbonitrile | 35.7 g | BrCC(=O)C1C(CC2=CC=CC=C12)C#N | C12H10BrNO
